US04742069
In accordance with the procedure described in Example 7, a solution of 3.8 g of 4-amino-N-methyl-2-oxo-3-pentenesulfonamide and 2.5 ml of allyl bromide in 50 ml of dimethylformamide was treated with 6 g of potassium carbonate and the mixture was stirred intensively at room temperature for 7 hours. The product was firstly chromatographed on 300 g of silica gel with methylene chloride/ethyl acetate (4:1) as the elution agent and then recrystallized from methylene chloride/ether. There were obtained 3.3 g of N-allyl-N-methyl-4-amino-2-oxo-3-pentenesulfonamide in the form of colorless crystals, m.p. 86°-89°.

reactant | 4-amino-N-methyl-2-oxo-3-pentenesulfonamide | 3.8 g | NC(=CC(CS(=O)(=O)NC)=O)C | C6H12N2O3S
reactant | allyl bromide | 2.5 ml | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 6 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-allyl-N-methyl-4-amino-2-oxo-3-pentenesulfonamide | 3.3 g | C(C=C)N(S(=O)(=O)CC(C=C(C)N)=O)C | C9H16N2O3S
